US09290468B2
Step 6: methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate
To a solution of methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-fluoro phenyl)amino)benzoate (19.43 g, 45.56 mmol) in MeOH (500 mL) was added and 10% palladium on carbon (3.40 g) under nitrogen atmosphere. Then the nitrogen atmosphere was completely changed to hydrogen atmosphere. The mixture was stirred for 3 h at ambient temperature. After the insoluble matter was filtered off, the solvent was evaporated in vacuo to give the desired product (18.06 g, 99.0%). 1H NMR (400 MHz, CDCl3): δ 9.08 (s, 1H), 7.78 (s, 1H), 7.11 (m, 9H), 4.65 (s, 2H), 3.88 (s, 2H), 3.84 (s, 3H).

reactant | methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-fluoro phenyl)amino)benzoate | 45.56 mmol, 19.43 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C21H16F2N4O2S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 500 mL | CO | CH4O
catalyst | palladium on carbon | 3.40 g | [Pd] | Pd
product | methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | 18.06 g, 99.0% | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C21H18F2N2O2S
